US08492582B2
Sodium carbonate (55 mg), phenylboranic acid (38 mg), water (0.35 mL), and bis(triphenylphosphine)palladium(II) dichloride (3.7 mg) were added to an ethylene glycol dimethyl ether (1.2 mL) suspension of tert-butyl 2-(5-bromopyridine-2-carboxamido)-4-phenylbenzoate (0.12 g), followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and then sodium carbonate (55 mg), phenylboranic acid (38 mg), and bis(triphenylphosphine)palladium(II) dichloride (3.7 mg) were added thereto, followed by heating to reflux under a nitrogen atmosphere for 2 hours. The reaction mixture was cooled to room temperature, and ethyl acetate and water were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Fuji Silysia Chemical Ltd., PSQ100B (spherical), eluent: 90-80% hexane/ethyl acetate] to obtain 0.11 g of tert-butyl 4-phenyl-2-(5-phenylpyridine-2-carboxamido)benzoate as a white solid.

reactant | Sodium carbonate | 55 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboranic acid | 38 mg | C1(=CC=CC=C1)OB=O | C6H5BO2
reactant | tert-butyl 2-(5-bromopyridine-2-carboxamido)-4-phenylbenzoate | 0.12 g | BrC=1C=CC(=NC1)C(=O)NC1=C(C(=O)OC(C)(C)C)C=CC(=C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | sodium carbonate | 55 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | phenylboranic acid | 38 mg | C1(=CC=CC=C1)OB=O | C6H5BO2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethylene glycol dimethyl ether | 1.2 mL | COCCOC | C4H10O2
solvent | water | 0.35 mL | O | H2O
product | tert-butyl 4-phenyl-2-(5-phenylpyridine-2-carboxamido)benzoate | 0.11 g | C1(=CC=CC=C1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C1=NC=C(C=C1)C1=CC=CC=C1 | C29H26N2O3
